US06630600B1
2-Hexyloxy-3-(4-hydroxyphenyl)propanoic acid methyl ester was prepared from 3-(4-benzyloxyphenyl)-2-hexyloxypropanoic acid methyl ester in ethyl acetate using the same method as described in Example 14b.

reactant | 3-(4-benzyloxyphenyl)-2-hexyloxypropanoic acid methyl ester | COC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)OCCCCCC)=O | C23H30O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Hexyloxy-3-(4-hydroxyphenyl)propanoic acid methyl ester | COC(C(CC1=CC=C(C=C1)O)OCCCCCC)=O | C16H24O4
